US04950759
N-(1-azabicyclo[2,2,2]oct-3-yl)-7,8-dihydro-6H-pyrazolo[4,5,1-ij]quinoline-2-carboxamide-hydrochloride
0.3 g (1.5 mmol) of 7,8-dihydro-6H-pyrazolo[4,5,1-ij]quinoline-2-carboxylic acid were dissolved in 10 ml of methylene chloride. 1 ml of thionyl chloride was added and the mixture was boiled for 1 hour. The mixture was then evaporated in vacuum. 10 ml of methylene chloride, 1.0 g (7.9 mmol) of 3-aminoquinuclidine and 1.0 g (10 mmol) of triethylamine were added after which the mixture was stirred for 30 minutes. The mixture was then extracted with water. The methylene chloride layer was separated, washed with water, dried and evaporated in vacuum. The residue was chromatographed over silica gel using methylene chloride/methanol/ammonia in the ratio 84:15:1 as an eluent; Yield; 0.15 g (33%); melting point 146°-147.5° C. 13C NMR (CDCl3, ref.: TMS)

reactant | 7,8-dihydro-6H-pyrazolo[4,5,1-ij]quinoline-2-carboxylic acid | 1.5 mmol, 0.3 g | N1=C(C=2C=CC=C3CCCN1C23)C(=O)O | C11H10N2O2
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-aminoquinuclidine | 7.9 mmol, 1.0 g | NC1CN2CCC1CC2 | C7H14N2
reactant | triethylamine | 10 mmol, 1.0 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(1-azabicyclo[2,2,2]oct-3-yl)-7,8-dihydro-6H-pyrazolo[4,5,1-ij]quinoline-2-carboxamide-hydrochloride | Cl.N12CC(C(CC1)CC2)NC(=O)C2=NN1CCCC3=CC=CC2=C13 | InChI=1S/C18H22N4O.ClH/c23-18(19-15-11-21-9-6-12(15)7-10-21)16-14-5-1-3-13-4-2-8-22(20-16)17(13)14;/h1,3,5,12,15H,2,4,6-11H2,(H,19,23);1H
